US08222297B2
To a solution of N-(2-dimethylaminoethyl)-3-nitrobenzamide (21.0 g, 88.0 mmol) in EtOH (50 mL) was added 10% Pd/C (2.52 g) and the hydrogenated with hydrogen at 35 psi for 3 h. The reaction mixture was filtered through a pad of Celite, the filterate was evaporated to dryness and the solid obtained was recrystallize from EtOH to give 3-amino-N-(2-dimethylaminoethyl)benzamide; 17.19 g (93%); mp 97-100° C.; 1H NMR (CDCl3) δ 2.20 (6H, s, 2×Me), 2.52 (2H, J=5.8 Hz, CH2), 3.51 (2H, q, J=5.4 and 5.8 Hz, CH2), 3.80 (2H, brs, exchangeable, NH2), 6.75-6.80 (1H, m, ArH), 6.82 (1H, brs, exchangeable, NH), 7.10 (H, d, J=7.6 Hz, ArH) 7.12-7.30 (2H, m, ArH) 8.33 (1H, m, ArH), 8.66 (1H, s, ArH). Anal Calcd. for (C11H17N3O): C, 63.74; H, 8.27; N 20.27. Found: C, 63.51, H, 8.45; N 20.12.

reactant | N-(2-dimethylaminoethyl)-3-nitrobenzamide | 88.0 mmol, 21.0 g | CN(CCNC(C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C11H15N3O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 2.52 g | [Pd] | Pd
product | 3-amino-N-(2-dimethylaminoethyl)benzamide | NC=1C=C(C(=O)NCCN(C)C)C=CC1 | C11H17N3O
